US04180394
A solution of phenol (2.68 g, 0.0285 mole) and triethylamine (3.97 ml, 0.0285 mole) in 50 ml. of ether was added to a solution of ethyl N-trifluoroacetyl-N-(dichlorophosphonomethyl)glycinate (9.9 g, 0.03 mole) in 175 ml. of ether at 0° C. After three hours, the reaction mixture was filtered and the cooled (0° C.) filtrate was treated with a solution of ethanethiol (2.13 ml, 0.0285 mole) and triethylamine (3.97 ml, 0.0285 mole) in 50 ml. of ether. After stirring at 25° C. overnight, the solution was filtered and the filtrate was washed with 1.5% hydrochloric acid, 1.5% ammonium hydroxide and saturated sodium chloride solution. Concentration in vacuo afforded an oil which was chromatographed on silica gel eluting with ethyl acetate/cyclohexane (1:1) to yield ethyl N-trifluoroacetyl-N-(phenoxy(ethylthio)phosphonomethyl)glycinate (1.5 g) as a clear oil, ND25 =1.4969.

reactant | phenol | 0.0285 mole, 2.68 g | C1(=CC=CC=C1)O | C6H6O
reactant | triethylamine | 0.0285 mole, 3.97 ml | C(C)N(CC)CC | C6H15N
reactant | ethyl N-trifluoroacetyl-N-(dichlorophosphonomethyl)glycinate | 0.03 mole, 9.9 g | FC(C(=O)N(CC(=O)OCC)CP(=O)(OCl)OCl)(F)F | C7H9Cl2F3NO6P
reactant | ethanethiol | 0.0285 mole, 2.13 ml | C(C)S | C2H6S
reactant | triethylamine | 0.0285 mole, 3.97 ml | C(C)N(CC)CC | C6H15N
solvent | ether | CCOCC | C4H10O
product | ethyl N-trifluoroacetyl-N-(phenoxy(ethylthio)phosphonomethyl)glycinate | 1.5 g | FC(C(=O)N(CC(=O)OCC)C(P(=O)(OSCC)O)OC1=CC=CC=C1)(F)F | C15H19F3NO7PS
